US09163012B2
To a solution of 1-(methoxycarbonyl)adamantan-4-yl 3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carboxylate (36 mg, 0.073 mmol) in MeOH (6 mL)/water (2 mL) was added LiOH (22 mg, 0.73 mmol). The reaction mixture was heated to reflux for 1 h. The formed mixture was concentrated to give an oil which was adjusted pH=5 by 0.5 M HCl and extracted with EtOAc (10 mL×3). The combined organic layers were dried over sodium sulfate, filtered and concentrated to afford 4-((3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carbonyl)oxy)adamantane-1-carboxylic acid (20 mg, 55%).

reactant | 1-(methoxycarbonyl)adamantan-4-yl 3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carboxylate | 0.073 mmol, 36 mg | CN1C(C=C(C=C1)C=1C=NC(=NC1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)C(=O)OC)=O | C27H32N4O5
reactant | water | 2 mL | O | H2O
reactant | LiOH | 0.73 mmol, 22 mg | [Li+].[OH-]
reactant | HCl | 0.5 M | Cl | ClH
solvent | MeOH | 6 mL | CO | CH4O
product | 4-((3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carbonyl)oxy)adamantane-1-carboxylic acid | 20 mg, 55% | CN1C(C=C(C=C1)C=1C=NC(=NC1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)C(=O)O)=O | C26H30N4O5
